US06949567B2
A solution of p-Nitrobenzenesulfonylchloride (274 g, 1.2 eq) in DCM (1 l), was added to a solution of benzylamine (500 g, 1 eq) and triethylamine (469 ml, 1.5 eq) in DCM (1 l) at 4° C. in small portions and then stirred for 1 h. Afterwards the mixture was stirred at rt for 16 h. The solvent was removed in vacuo and the residue was washed with a mixture of DCM/PE (1/1) at 4° C., filtered and dried in vacuo to give N-Benzyl-4-nitrobenzenesulfonamide. Yield 90%.

reactant | p-Nitrobenzenesulfonylchloride | 274 g, 1.2 eq | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | benzylamine | 500 g, 1 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 469 ml, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | DCM | 1 l | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 l | C(Cl)Cl | CH2Cl2
product | N-Benzyl-4-nitrobenzenesulfonamide | Yield 90% | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H12N2O4S
